US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 53 using (S)-4-(tert-butoxycarbonylamino)-8-methylthiochromane-7-carboxylic acid (2.00 g), 4-aminopyridine (582 mg) and 2-chloro-1-methylpyridinium iodide (2.37 g), the objective (S)-4-(tert-butoxycarbonylamino)-8-methyl-N-(4-pyridyl)thiochromane-7-carboxamide (1.86 g) was obtained as colorless crystals.

reactant | (S)-4-(tert-butoxycarbonylamino)-8-methylthiochromane-7-carboxylic acid | 2.00 g | C(C)(C)(C)OC(=O)N[C@H]1CCSC2=C(C(=CC=C12)C(=O)O)C | C16H21NO4S
reactant | 4-aminopyridine | 582 mg | NC1=CC=NC=C1 | C5H6N2
reactant | 2-chloro-1-methylpyridinium iodide | 2.37 g | [I-].ClC1=[N+](C=CC=C1)C
product | (S)-4-(tert-butoxycarbonylamino)-8-methyl-N-(4-pyridyl)thiochromane-7-carboxamide | 1.86 g | C(C)(C)(C)OC(=O)N[C@H]1CCSC2=C(C(=CC=C12)C(=O)NC1=CC=NC=C1)C | C21H25N3O3S
